US08809342B2
To a −78° C. solution of methyl 6-formylnicotinate (0.300 g, 1.82 mmol) in tetrahydrofuran (6 mL) was added methylmagnesium bromide (0.787 mL, 3M in THF, 2.36 mmol) over 20 minutes. The solution was warmed to 0° C. and stirred for 2 hours. The mixture was quenched with saturated ammonium chloride, extracted with ethyl acetate, dried over sodium sulfate, filtered and concentrated. Purification by preparative TLC gave methyl 6-(1-hydroxyethyl)nicotinate (230 mg, 70%) as a red oil. 1H NMR (400 MHz, CD3OD, δ): 8.93 (m, 1H), 8.26-8.29 (m, 1H), 7.59 (d, 1H), 4.73-4.83 (m, 1H), 3.84 (s, 3H), 1.37 (d, 3H).

reactant | methyl 6-formylnicotinate | 1.82 mmol, 0.300 g | C(=O)C1=NC=C(C(=O)OC)C=C1 | C8H7NO3
reactant | methylmagnesium bromide | 2.36 mmol, 3M, 0.787 mL | C[Mg]Br
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | methyl 6-(1-hydroxyethyl)nicotinate | 230 mg, 70% | OC(C)C1=NC=C(C(=O)OC)C=C1 | C9H11NO3
